US05140031
B. (trans)-N"-Cyano-N-(6-cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl)-N'-ethyl guanidine
To a solution of the title A compound (1.15 g, 8.9 mmol) and (trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (prepared according to Evans et al., J. Med. Chem., 1983, 26, 1582 and J. Med. Chem., 1986, 29, 2194). (1.5 g, 6.9 mmol) in dimethylformamide (5 mL) under argon was added 1-(3-dimethylaminopropyl)-2-ethylcarbodiimide hydrochloride (1.71 g, 8.9 mmol) at room temperature. The reaction mixture was stirred at room temperature for 2 hours and then partitioned between 1N HCl and ethyl acetate. The organic phase was separated and the aqueous phase was reextracted with ethyl acetate. The combined organic phase was washed with water, aqueous sodium bicarbonate and brine. After drying over anhydrous magnesium sulfate, the solvent was evaporated and the residue was purified by flash chromatography on silica gel (25% acetone in dichloromethane). The fractions containing the desired product were combined and evaporated to yield a colorless solid (801 mg). This solid product was recrystallized from acetonitrile-ether to yield the title compound, m.p. 185°-188° C.

reactant | (trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | 1-(3-dimethylaminopropyl)-2-ethylcarbodiimide hydrochloride | 8.9 mmol, 1.71 g | Cl.CN(CCCCCN=C=N)C
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (trans)-N"-Cyano-N-(6-cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl)-N'-ethyl guanidine | 801 mg | C(#N)N=C(N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O)NCC | C16H19N5O2
